US06593322B1
1-{4-(N-Piperidyl)benzyl}-2-(4-fluorophenyl}-6-phenylmethoxy-1,2,3,4-tetrahydroisoquinoline (0.25 g, 0.49 mmol) was treated with H2 in 10% Pd/C as described in Example 14.D to yield 1-{4-(N-piperidyl)benzyl}-2-(4-fluorophenyl}-1,2,3,4-tetrahydroisoquinoline-6-ol. Treatment of the free base with conc. HCl in ether produces a fine white solid. The precipitate is filtered and dried under high vacuum to yield the title compound. (0.096 g, 47% yield): m.p. 177-179° C. (dec.).

reactant | 1-{4-(N-Piperidyl)benzyl}-2-(4-fluorophenyl}-6-phenylmethoxy-1,2,3,4-tetrahydroisoquinoline | 0.49 mmol, 0.25 g | N1(CCCCC1)C1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C34H35FN2O
solvent | Pd/C | [Pd] | Pd
product | 1-{4-(N-piperidyl)benzyl}-2-(4-fluorophenyl}-1,2,3,4-tetrahydroisoquinoline-6-ol | N1(CCCCC1)C1=CC=C(CC2N(CCC3=CC(=CC=C23)O)C2=CC=C(C=C2)F)C=C1 | C27H29FN2O
